US08008327B2
Synthesis of 1-(4-Fluoro-phenyl)-6-methylamino-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide (28)
A mixture of 6-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide (0.05 g, 0.1 mmol), methylamine hydrochloride (0.01 g, 0.2 mmol), palladium(II) acetate di-t-butylbiphenylphosphine (0.005 g, 0.01 mmol) and sodium t-butoxide (0.03 g, 0.25 mmol) was charged in a sealed tube with dioxane (5 mL). The tube was capped, degassed with argon for 5 minutes and warmed at 90° C. for 2 hours. The reaction was cooled to room temperature and filtered through diatomaceous earth, and diluted with water (5 mL) and ethyl acetate (20 mL). The organic layer was separated and washed with brine (10 mL), dried over sodium sulfate, and concentrated. The residue was purified by reversed-phase HPLC eluting with a gradient of 5-100% CH3CN in water. The desired fractions were combined and diluted with saturated aqueous NaHCO3 (20 mL) and ethyl acetate (20 mL). The organic layer was separated, dried over sodium sulfate and concentrated to afford the title compound.

reactant | 6-bromo-1-(4-fluoro-phenyl)-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide | 0.1 mmol, 0.05 g | CNS(=O)(=O)C1=CC=C(CNC(=O)C=2C=3C=NN(C3C=C(C2)Br)C2=CC=C(C=C2)F)C=C1 | C22H18BrFN4O3S
reactant | methylamine hydrochloride | 0.2 mmol, 0.01 g | Cl.CN
reactant | sodium t-butoxide | 0.25 mmol, 0.03 g | CC(C)([O-])C.[Na+]
catalyst | palladium(II) acetate | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1-(4-Fluoro-phenyl)-6-methylamino-1H-indazole-4-carboxylic acid 4-methylsulfamoyl-benzylamide | CNS(=O)(=O)C1=CC=C(CNC(=O)C=2C=3C=NN(C3C=C(C2)NC)C2=CC=C(C=C2)F)C=C1 | C23H22FN5O3S
